US08304557B2
N-{5-[(1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl)oxy]-2-fluorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide
In the same manner as in Reference Example 5 and using N-{2-fluoro-5-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (7.25 g, 14.6 mmol), N,N-diisopropylethylamine (3.31 mL, 19.0 mmol), N,N-dimethylformamide (30 mL) and iodoacetamide (3.51 g, 19.0 mmol) as starting materials, the title compound (5.86 g, 73%) was obtained as a white solid.

reactant | N-{2-fluoro-5-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 14.6 mmol, 7.25 g | FC1=C(C=C(C=C1)OC=1C=NC(=CC1)NS(=O)(=O)C1=CC=C(C=C1)C)NC(=O)C1=CC(=NN1C)C | C24H22FN5O4S
reactant | N,N-diisopropylethylamine | 19.0 mmol, 3.31 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | iodoacetamide | 19.0 mmol, 3.51 g | ICC(=O)N | C2H4INO
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | N-{5-[(1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl)oxy]-2-fluorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 5.86 g, 73% | NC(CN1C=C(C=CC1=NS(=O)(=O)C1=CC=C(C=C1)C)OC=1C=CC(=C(C1)NC(=O)C1=CC(=NN1C)C)F)=O | C26H25FN6O5S
